US06066658
Ethyl 4,5-dihydro-8-methylthio-2-phenylfuro[3,4-e]benzothiazole-6-carboxylate (1.32 g) was suspended in a mixed solvent of ethanol (10 ml) and tetrahydrofuran (15 ml); a 2 N aqueous solution of sodium hydroxide (5.3 ml) was added at 50° C. After the reaction mixture was stirred at 50° C. for 1.5 hours, the solution obtained was poured over water (300 ml), acidified with concentrated hydrochloric acid, and extracted with ethyl acetate-tetrahydrofuran (3:1, v/v). The organic layer was washed with water and dried (MgSO4), after which the solvent was distilled off to yield 4,5-dihydro-8-methylthio-2-phenylfuro[3,4-e]benzothiazole-6-carboxylic acid (1.14 g, 93.4%), which was then recrystallized from chloroform-methanol. Colorless prisms. Melting point 206-207° C. (decomposed).

reactant | Ethyl 4,5-dihydro-8-methylthio-2-phenylfuro[3,4-e]benzothiazole-6-carboxylate | 1.32 g | CSC=1OC(=C2CCC3=C(N=C(S3)C3=CC=CC=C3)C21)C(=O)OCC | C19H17NO3S2
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 5.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4,5-dihydro-8-methylthio-2-phenylfuro[3,4-e]benzothiazole-6-carboxylic acid | 1.14 g, 93.4% | CSC=1OC(=C2CCC3=C(N=C(S3)C3=CC=CC=C3)C21)C(=O)O | C17H13NO3S2
